US04683241
3-(2-formyl-propyl)-4-pivaloyloxy-benzophenone
To a solution of 1.8 ml of oxalyl chloride in 43 ml of methylene chloride were added dropwise a solution of 3.0 ml of DMSO in 9 ml of methylene chloride at -60° C., and then a solution of 6.14 g of 3-(2-methylhydroxypropyl-4-pivaloyloxybenzophenone in 17 ml of methylene chloride. The mixture was stirred at about -50°-60° C. for 15 min, then treated with 12.1 ml of triethylamine. The reaction mixture was stirred at -50° C. for 5 min, warmed to 25° C., and then treated with 85 ml of water. The organic layer was washed with dilute hydrochloric acid and then with brine, dried (MgSO4) and concentrated to give 5.0 g of product as an oil.

reactant | oxalyl chloride | 1.8 ml | C(C(=O)Cl)(=O)Cl | C2Cl2O2
reactant | DMSO | 3.0 ml | CS(=O)C | C2H6OS
reactant | 2-methylhydroxypropyl-4-pivaloyloxybenzophenone | CC1=C(C(=O)C2=CC=CC=C2)C=CC(=C1CCCO)OC(C(C)(C)C)=O | C22H26O4
reactant | triethylamine | 12.1 ml | C(C)N(CC)CC | C6H15N
solvent | methylene chloride | 43 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 9 ml | C(Cl)Cl | CH2Cl2
solvent | methylene chloride | 17 ml | C(Cl)Cl | CH2Cl2
solvent | water | 85 ml | O | H2O
product | 3-(2-formyl-propyl)-4-pivaloyloxy-benzophenone | 5.0 g | C(=O)C(CC=1C=C(C(=O)C2=CC=CC=C2)C=CC1OC(C(C)(C)C)=O)C | C22H24O4
